US07847048B2
Synthesis of N-benzylidene-3-(triethoxysilyl)-1-propaneamine:
(Imine-TEOS) To a 2000 mL 3-neck round bottom flask placed in an ice water bath and equipped with a stirbar was added 70 g of 5 Å molecular sieves. The flask was then equipped with a reflux condenser and the remaining necks were sealed with rubber septa. The reaction flask was evacuated and backfilled with dry nitrogen three times. After the final backfill cycle, 200.1 g (903.9 mmol) of 3-aminopropyltriethoxysilane was added to the flask, along with 300 mL of anhydrous toluene. With rapid stirring, 95.9 g (903.9 mmol) of benzaldehyde was added dropwise via cannula over 30 minutes. The contents were allowed to stir at room temperature under nitrogen overnight. After an overnight stir, the contents were filtered. An additional 50 mL of anhydrous toluene was added to facilitate the filtration. The filtrate was filtered a second time and collected. The collected filtrate was concentrated via rotary evaporation to yield a pale gold oil (274.9 g, 98%). This solid was isolated in >98% purity, as characterized by 1H NMR spectroscopy and was not purified further. 1H NMR (CDCl3, 400 MHz): 0.68 (m, 2H); 1.22 (m, 9H); 1.85 (m, 2H); 3.61 (m, 2H); 2.82 (m, 6H); 7.40 (m, 3H); 7.72 (m, 2H); 8.27 (s, 1H).

reactant | 3-aminopropyltriethoxysilane | 903.9 mmol, 200.1 g | NCCC[Si](OCC)(OCC)OCC | C9H23NO3Si
reactant | benzaldehyde | 903.9 mmol, 95.9 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | N-benzylidene-3-(triethoxysilyl)-1-propaneamine | 274.9 g, 98% | C(C1=CC=CC=C1)=NCCC[Si](OCC)(OCC)OCC | C16H27NO3Si
